US07582657B2
(2E)-N-Benzothiazol-6-yl-3-[2-methyl-6-(trifluoromethyl)(3-pyridyl)]prop-2enamide
Analogous to the procedure used to prepare Example 1, (2E)-3-[2-methyl-6-(trifluoromethyl)(3-pyridyl)]prop-2-enoic acid, Example 82(b), (120 mg, 0.50 mmol) and 6-aminobenzothiazole (75 mg, 0.50 mmol, Lancaster) provided, after purification by silica gel chromatography (55:45 hexane:EtOAc), the title compound as a white solid. MP 196° C. MS (ESI, pos. ion) m/z: 364 (M+1).

reactant | (2E)-3-[2-methyl-6-(trifluoromethyl)(3-pyridyl)]prop-2-enoic acid | CC1=NC(=CC=C1/C=C/C(=O)O)C(F)(F)F | C10H8F3NO2
reactant | 6-aminobenzothiazole | 0.50 mmol, 75 mg | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
product | (2E)-N-Benzothiazol-6-yl-3-[2-methyl-6-(trifluoromethyl)(3-pyridyl)]prop-2enamide | S1C=NC2=C1C=C(C=C2)NC(\C=C\C=2C(=NC(=CC2)C(F)(F)F)C)=O | C17H12F3N3OS
